US07417065B2
3-{[3-Chloro-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophen-5-ylmethyl]-amino}-propionic acid tert-butyl ester (43 mg, 0.079 mmol) is dissolved in TFA/CH2Cl2 (1/1) (1 mL). The solution is stirred at room temperature for an hour. The mixture is concentrated and purified by reversed phase preparative LC/MS to give 23 mg of 3-{[3-chloro-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophen-5-ylmethyl]-amino}-propionic acid: 1H NMR (CD3OD, 400 MHz) δ 8.10 (s, 1 H), 7.96-8.02 (m, 3 H), 7.54 (d, 1 H), 7.46 (d, 1 H), 7.35-7.37 (m, 3 H), 7.28-7.29 (m, 2 H), 4.37 (s, 2 H), 3.26(m, 2 H), 2.71 (m, 2 H), MS (ES+) 490.3 (M+H+).

reactant | 3-{[3-Chloro-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophen-5-ylmethyl]-amino}-propionic acid tert-butyl ester | 0.079 mmol, 43 mg | C(C)(C)(C)OC(CCNCC1=CC2=C(SC(=C2Cl)C2=CC(=C(C=C2)C2=CC=CC=C2)C(F)(F)F)C=C1)=O | C29H27ClF3NO2S
solvent | TFA CH2Cl2 | 1 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-{[3-chloro-2-(2-trifluoromethyl-biphenyl-4-yl)-benzo[b]thiophen-5-ylmethyl]-amino}-propionic acid | 23 mg | ClC=1C2=C(SC1C1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)C=CC(=C2)CNCCC(=O)O | C25H19ClF3NO2S
